US05952362
A solution of 7.5 g of (4-hydroxy-phenoxy)-acetonitrile dissolved in 60 ml of nitromethane was cooled in an ice bath and 3.88 ml of 70% nitric acid was added dropwise. After 45 minutes, the reaction mixture was poured into ethyl acetate, washed with brine, dried (MgSO4), and evaporated to dryness. The crude product was purified by silica gel chromatography eluting with ethyl acetate/hexane (1:3), giving 5.45 g of (4-hydroxy-3-nitro-phenoxy)-acetonitrile as a yellow solid, mp 113.1-114.1° C.

reactant | (4-hydroxy-phenoxy)-acetonitrile | 7.5 g | OC1=CC=C(OCC#N)C=C1 | C8H7NO2
reactant | nitric acid | 3.88 ml | [N+](=O)(O)[O-] | HNO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | nitromethane | 60 ml | [N+](=O)([O-])C | CH3NO2
product | (4-hydroxy-3-nitro-phenoxy)-acetonitrile | 5.45 g | OC1=C(C=C(OCC#N)C=C1)[N+](=O)[O-] | C8H6N2O4
